US06133260
111 g of 3-cyano-2,4,5-trifluoro-benzoic acid and 84 g of oxalyl chloride are stirred at room temperature for 5 hours in 930 ml of dry methylene chloride with addition of a few drops of dimethylformamide. The methylene chloride is then stripped off and the residue is distilled in vacuo. 117.6 g of 3-cyano-2,4,5-trifluoro-benzoyl chloride are obtained as a yellow oil.

reactant | 3-cyano-2,4,5-trifluoro-benzoic acid | 111 g | C(#N)C=1C(=C(C(=O)O)C=C(C1F)F)F | C8H2F3NO2
reactant | oxalyl chloride | 84 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 930 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 3-cyano-2,4,5-trifluoro-benzoyl chloride | 117.6 g | C(#N)C=1C(=C(C(=O)Cl)C=C(C1F)F)F | C8HClF3NO
